US05104888
6-Acetoxy-5,7,8-trimethyl-2-(4-nitrophenoxymethyl)-2-octylchroman (Step A3, Acylation)
1.2 g of acetic anhydride was added to a mixture of 3.5 g of 6-hydroxy-5,7,8-trimethyl-2-(4-nitrophenoxymethyl)-2-octylchroman (prepared as described in Preparation 15), 10 ml of pyridine and 10 ml of benzene, and the mixture was stirred for 2hours at room temperature. The reaction mixture was then poured into water and extracted with benzene. The extract was washed with 5% w/v aqueous hydrochloric acid and water, successively in that order, and dried over anhydrous sodium sulfate. The solvent was removed by distillation under reduced pressure, to give the title compound.

reactant | acetic anhydride | 1.2 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 6-hydroxy-5,7,8-trimethyl-2-(4-nitrophenoxymethyl)-2-octylchroman | 3.5 g | OC=1C(=C2CCC(OC2=C(C1C)C)(CCCCCCCC)COC1=CC=C(C=C1)[N+](=O)[O-])C | C27H37NO5
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
reactant | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 6-Acetoxy-5,7,8-trimethyl-2-(4-nitrophenoxymethyl)-2-octylchroman | C(C)(=O)OC=1C(=C2CCC(OC2=C(C1C)C)(CCCCCCCC)COC1=CC=C(C=C1)[N+](=O)[O-])C | C29H39NO6
